US04329347
6-[4-(4-Nitrophenyl-sulfonyl)-butoxy]-carbostyril
Prepared analogous to Example 124 from 6-[4-(4-nitro-phenyl-sulfinyl)-butoxy]-carbostyril and hydrogen peroxide in formic acid.

reactant | 6-[4-(4-nitro-phenyl-sulfinyl)-butoxy]-carbostyril | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18N2O5S
reactant | hydrogen peroxide | OO | H2O2
solvent | formic acid | C(=O)O | CH2O2
product | 6-[4-(4-Nitrophenyl-sulfonyl)-butoxy]-carbostyril | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18N2O6S
